US06136781
The crude cyclo(-pClPhe-D-Arg(Tos)-Phe-D-Ala-Trp-) (100 mg) as obtained in Example 38 was treated with HF in the presence of p-cresol (100 mg) and ethanedithiol (100 ml) for 2 hours, while cooling with ice. After HF was removed by distillation, ether was added to the residue and the precipitate formed was collected by filtration. This was purified by gel chromatography (G-25; 2 cm×80 cm). Finally, 1/5 of the product was further purified by HPLC using a column for partitioning purification of D-ODS-5-ST (2 cm×15 cm; produced by YMC Co.) to obtain cyclo(-pClPhe-D-Arg-Phe-D-Ala-Trp-).

reactant | cyclo(-pClPhe-D-Arg(Tos)-Phe-D-Ala-Trp-) | 100 mg | N1[C@@H](CC2=CC=C(C=C2)Cl)C(=O)N[C@H](CCCNC(NS(=O)(=O)C2=CC=C(C)C=C2)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](C)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C1=O | C45H50ClN9O7S
reactant | p-cresol | 100 mg | C1=CC(=CC=C1O)C | C7H8O
solvent | ethanedithiol | 100 ml | C(C)(S)S | C2H6S2
product | cyclo(-pClPhe-D-Arg-Phe-D-Ala-Trp-) | N1[C@@H](CC2=CC=C(C=C2)Cl)C(=O)N[C@H](CCCNC(N)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](C)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C1=O | C38H44ClN9O5
